US06583141B1
3-Pyridinecarboxaldehyde, oxime (0.013 mol) was added to a suspension of 1-chloro-2,5 pyrrolidinedione (0.0148 mol) in CHCl3 (80 ml) and pyridine (0.16 ml), stirred at RT. The mixture was stirred for 3 hours at 40° C., then cooled to 0° C. and 4-benzoyl-N-(2-propenyl)benzamide (0.011 mol) was added. Then, triethylamine (2.25 ml) was added dropwise and the resulting reaction mixture was stirred overnight at RT. The reaction mixture was washed with water, dried (Na2SO4), filtered and the solvent was evaporated. The residue was crystallized from CH3CN. The precipitate was filtered off and dried, yielding 2.0 g (37%) of (±)-4-benzoyl-N-[[4,5-dihydro-3-(3-pyridinyl)-5-isoxazolyl]methyl]benzamide. (compound 343).

reactant | 3-Pyridinecarboxaldehyde | N1=CC(=CC=C1)C=O | C6H5NO
reactant | 1-chloro-2,5 pyrrolidinedione | 0.0148 mol | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | 4-benzoyl-N-(2-propenyl)benzamide | 0.011 mol | C(C1=CC=CC=C1)(=O)C1=CC=C(C(=O)NCC=C)C=C1 | C17H15NO2
reactant | triethylamine | 2.25 ml | C(C)N(CC)CC | C6H15N
reactant | pyridine | 0.16 ml | N1=CC=CC=C1 | C5H5N
solvent | CHCl3 | 80 ml | C(Cl)(Cl)Cl | CHCl3
product | (±)-4-benzoyl-N-[[4,5-dihydro-3-(3-pyridinyl)-5-isoxazolyl]methyl]benzamide | 2.0 g, 37% | C(C1=CC=CC=C1)(=O)C1=CC=C(C(=O)NCC2CC(=NO2)C=2C=NC=CC2)C=C1 | C23H19N3O3
